US07652009B2
Step 1: Preparation of 5-bromo-2-(3-fluoro-4-methoxyphenyl)pyrimidine
To a mixture of 5-bromo-2-iodopyrimidine (3.0 g, 10 mmol) and 3-fluoro-4-methoxyphenylboronic acid (2.0 g, 12 mmol) in dioxane (15 mL) and H2O (5 mL) was added Pd(dppf)Cl2—CH2Cl2 (0.1 g, 0.12 mmol) and Na2CO3 (2.0 g, 19 mmol) under argon. The mixture was stirred at RT for 20 h and was further heated at 80° C. for 20 h. The mixture was cooled to RT and was extracted with EtOAc. The organic layer was washed with H2O, NH4Cl (sat), dried (Na2SO4), and concentrated. The crude residue was partitioned in 1:1 ether-CH2Cl2 and filtered to provide the title compound as a flake. The filtrate was concentrated and was triturated with MeOH to provide a second batch of product solid. MS (ESI pos. ion) m/z: 283, 285. Calc'd for C11H8BrFN2O: 281.98.

reactant | 5-bromo-2-iodopyrimidine | 10 mmol, 3.0 g | BrC=1C=NC(=NC1)I | C4H2BrIN2
reactant | 3-fluoro-4-methoxyphenylboronic acid | 12 mmol, 2.0 g | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
reactant | Na2CO3 | 19 mmol, 2.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.12 mmol, 0.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-bromo-2-(3-fluoro-4-methoxyphenyl)pyrimidine | BrC=1C=NC(=NC1)C1=CC(=C(C=C1)OC)F | C11H8BrFN2O
